US04797401
(D) 1-(3-Fluoro-4-aminophenyl)-4-(4-aminophenethyl)piperazine
1-(3-Fluoro-4-nitrophenyl)-4-(4-nitrophenethyl)piperazine (0.19 g) and 10% palladium on carbon (150 mg) were hydrogenated at 4 atmospheres and 60° until completion of hydrogen uptake. The catalyst was then filtered off, the solvent evaporated, and the residual product (0.06 g) used directly in the next stage.

reactant | 1-(3-Fluoro-4-nitrophenyl)-4-(4-nitrophenethyl)piperazine | 0.19 g | FC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)CCC1=CC=C(C=C1)[N+](=O)[O-] | C18H19FN4O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 150 mg | [Pd] | Pd
product | 1-(3-Fluoro-4-aminophenyl)-4-(4-aminophenethyl)piperazine | FC=1C=C(C=CC1N)N1CCN(CC1)CCC1=CC=C(C=C1)N | C18H23FN4
